US07238772B2
1-Methylimidazole (4.32 g, 0.52 mol) was partially dissolved in reagent-grade toluene (50 ml) in a large round-bottomed flask and stirred vigorously. 1,1,1,2,2,3,3,4,4,5,5,6,6-Tridecafluoro-8-iodooctane (26 g, 0.053 mol) was added, and the mixture was heated under reflux at 110 degrees C. for 24 hours. The solvent was removed under vacuum giving 1-methyl-3-(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluorooctyl)imidazolium iodide (30.5 g) as a waxy solid. Potassium 1,1,2,2-tetrafluoroethanesulfonate (TFES-K, 12 g) was added to reagent grade acetone (100 ml) in a separate round-bottomed flask, and this solution was carefully added to the 1-methyl-3-(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluorooctyl)imidazolium iodide which had been dissolved in acetone (50 ml). The reaction mixture was heated under reflux for approximately 16 hours. The reaction mixture was then filtered using a large frit glass funnel to remove the white Kl precipitate formed, and the filtrate was placed on a rotary evaporator for 4 hours to remove the acetone. The oily liquid was then filtered a second time to yield the product, as shown by proton NMR.

reactant | 1-Methylimidazole | 0.52 mol, 4.32 g | CN1C=NC=C1 | C4H6N2
reactant | 1,1,1,2,2,3,3,4,4,5,5,6,6-Tridecafluoro-8-iodooctane | 0.053 mol, 26 g | FC(C(C(C(C(C(CCI)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C8H4F13I
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-3-(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluorooctyl)imidazolium iodide | 30.5 g | [I-].C[N+]1=CN(C=C1)CCC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | InChI=1S/C12H10F13N2.HI/c1-26-4-5-27(6-26)3-2-7(13,14)8(15,16)9(17,18)10(19,20)11(21,22)12(23,24)25;/h4-6H,2-3H2,1H3;1H/q+1;/p-1
